Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Bactrim / Motrin / latex / NSAIDS (Non-Steroidal 
Anti-Inflammatory Drug)
 
Attending: ___
 
Chief Complaint:
Persistent cervical dysplasia with inadequate colposcopy
 
Major Surgical or Invasive Procedure:
Robotic-assisted total laparoscopic hysterectomy with bilateral 
salpingo-oophorectomy and cystoscopy

 
History of Present Illness:
Mrs. ___ is a ___ gravida 4 para ___ who
presents today in the office for consultation requested by Dr.
___ surgical management of persistent cervical
dysplasia with inadequate colposcopy.  The patient had a cold
knife cone excision procedure performed by Dr. ___ in
___.  She was left with a significantly small, stenotic cervix
that with time has become so atrophic as to be flushed with the
vaginal apex. 

Her h.o is as follows:
Hx of LEEP ___ with negative path.
Last Pap ___ negative.
___ - pap showed LGSIL, HPV+
___ - Colpo showed LGSIL/CIN-1
___ - pap showed normal cytology, HPV +
___ - pap showed normal cytology, HPV +
___ - pap showed normal cytology, HPV negative
___ Pap - cytology neg/+HR-HPV
___ - Pap:  NILM, HPV positive
___ - Colposcopy:
   Cervical biopsy at 8 o'clock:
   Benign squamous mucosa;
   No transformation zone present.
___ - Pap showed ASCUS, HPV positive

She understands the significant of having persistently HPV
positive Pap smears despite no sexual partner in the last ___
years.

She denies any vaginal bleeding or sensation of dryness.  There
is no change in her urinary or bowel habits.  She does admit to
occasional constipation which she manages with dietary
modification.  She believes it to be due to some of the
supplementation that she takes.  She does offer history of
pulmonary embolism after her breast reduction surgery in ___.
She is otherwise without any other clinically significant
complaints.

 
Past Medical History:
PAST MEDICAL HISTORY:

Problems  (Last Verified ___ by ___, MD):
ABNORMAL PAP SMEAR                                              
ALOPECIA AREATA                                                 
ANEMIA                                                          
ARTHRITIS                                                       
COMPRESSION FRACTURES                                           
DOMESTIC VIOLENCE                                               
HEMMORHOID                                                      
NECK PAIN                                                       
PULMONARY EMBOLISM                                              
RECURRENT GENITAL HSV                                           
OSTEOPOROSIS                                                    
COLONIC ADENOMA                                                 
HIP PAIN                                                        
OSTEOARTHRITIS                                                  
TROCHANTERIC BURSITIS                                           

PAST SURGICAL HISTORY

Surgical History  (Last Verified ___ by ___, 
MD):
CESAREAN SECTION                                                

DILATION AND CURETTAGE                                          
x 2                                                             

ROTATOR CUFF REPAIR                                             
right arm                                                       

BUNIONECTOMY                                                    
left foot                                                       

LEEP                                                            

Breast reduction (P)

 
Social History:
___
Family History:
   

Her family history is unremarkable for Ovarian or Colon cancer. 
She has 2 aunts with breast cancer.
She is single and works for the ___ for ___ 
___'s office.
 
Physical Exam:
Physical Exam on Initial Evaluation:

BP: 106/66
Weight: 122

Neuro/Psych: Oriented x3, Affect Normal, NAD.
Nodes: No inguinal adenopathy.
Heart: No pedal edema
Lungs: Normal respiratory effort.
GI:  Non tender lower abdomen, Non distended, No masses, 
guarding
or rebound, No hepatosplenomegaly, No hernia.
Ext: No clubbing, cyanosis, edema.

Urethra meatus central, no prolapse.
Vagina: No lesions, Bladder non-tender, no masses appreciated.
Cervix: no lesions, no discharge
Uterus: non-tender
Adnexa: no masses non tender.

VAGINAL EXAM
- There was moderate vaginal atrophy.
Cervical stenosis with atrophy (flushed with the vaginal apex)

No apical descent (prior C-section followed by a vaginal 
delivery
of a premature infant weighing 2 pounds)

_
_
_
_
_
________________________________________________________________

Physical Exam on Discharge:
Vitals
24 HR Data (last updated ___ @ 324)
    Temp: 98.4 (Tm 98.6), BP: 100/59 (100-115/59-67), HR: 78
(78-79), RR: 18 (___), O2 sat: 95% (94-95), O2 delivery: Ra

Fluid Balance (last updated ___ @ 601)
  Last 8 hours  Total cumulative -75ml
    IN: Total 575ml, PO Amt 220ml, IV Amt Infused 355ml
    OUT:  Total 650ml, Urine Amt 650ml
  Last 24 hours  Total cumulative 905ml
    IN: Total 2045ml, PO Amt 340ml, IV Amt Infused 1705ml
    OUT:  Total 1140ml, Urine Amt 1040ml, Emesis 100ml

General: NAD, A&Ox3
CV: RRR, no m/r/g
RESP: CTAB, no respiratory distress, normal work of breathing
Abd: soft, non-tender, no rebound or guarding
Incision: 5 LSC port sites c/d/i , gauze and bioocclusive taken
down
Dressings: steris
GU: foley present
Extremities: no calf tenderness, wwp, pboots on and active
bilaterally, neg homans, no palp cords, vis symetric

 
Pertinent Results:
Procedural pathology pending
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the Gynecology 
service after undergoing robotic-assisted total laparoscopic 
hysterectomy with bilateral salpingo-oophorectomy and 
cystoscopy. Please see the operative report for full details.

Her post-operative course was uncomplicated. Immediately 
post-op, her pain was controlled with IV Dilaudid and Toradol.

On post-operative day 1, her urine output was adequate, so her 
Foley was removed, and she voided spontaneously. Her diet was 
advanced without difficulty, and she was transitioned to oral 
acetaminophen with oxycodone.

By the afternoon of post-operative day 1, she was tolerating a 
regular diet, voiding spontaneously, ambulating independently, 
and pain was controlled with oral medications. She was then 
discharged home in stable condition with outpatient follow-up 
scheduled.
 
Medications on Admission:
FLUOXETINE - fluoxetine 10 mg capsule. 1 (One) capsule(s) by
mouth once a day
FLUTICASONE PROPIONATE - fluticasone propionate 50 mcg/actuation
nasal spray,suspension. 2 sprays(s) in each nostril once per day
Use every day, not just as needed.
LORAZEPAM - lorazepam 0.5 mg tablet. 1 tablet(s) by mouth BID 
PRN
as needed for anxiety
 
Medications - OTC
CALCIUM CARBONATE - calcium carbonate 500 mg calcium (1,250 mg)
chewable tablet. 1 tablet(s) by mouth twice per day
CHOLECALCIFEROL (VITAMIN D3) - cholecalciferol (vitamin D3)
10,000 unit capsule. 1 capsule(s) by mouth weekly
OXYMETAZOLINE [AFRIN (OXYMETAZOLINE)] - Afrin (oxymetazoline)
0.05 % nasal spray. 3 sprays(s) each nostril twice daily for 3
days then stop! DO NOT USE FOR MORE THAN 3 DAYS EVERY 3 WEEKS.
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every six (6) 
hours Disp #*50 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet by mouth twice a day Disp 
#*50 Tablet Refills:*0 
3.  Enoxaparin Sodium 30 mg SC DAILY 
RX *enoxaparin 30 mg/0.3 mL 30 mg subcutaneously once a day Disp 
#*6 Syringe Refills:*0 
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *oxycodone 5 mg 1 tablet by mouth every four (4) hours Disp 
#*10 Tablet Refills:*0 

FLUOXETINE - fluoxetine 10 mg capsule. 1 (One) capsule(s) by
mouth once a day
FLUTICASONE PROPIONATE - fluticasone propionate 50 mcg/actuation
nasal spray,suspension. 2 sprays(s) in each nostril once per day
Use every day, not just as needed.
LORAZEPAM - lorazepam 0.5 mg tablet. 1 tablet(s) by mouth BID 
PRN
as needed for anxiety
 
Medications - OTC
CALCIUM CARBONATE - calcium carbonate 500 mg calcium (1,250 mg)
chewable tablet. 1 tablet(s) by mouth twice per day
CHOLECALCIFEROL (VITAMIN D3) - cholecalciferol (vitamin D3)
10,000 unit capsule. 1 capsule(s) by mouth weekly
OXYMETAZOLINE [AFRIN (OXYMETAZOLINE)] - Afrin (oxymetazoline)
0.05 % nasal spray. 3 sprays(s) each nostril twice daily for 3
days then stop! DO NOT USE FOR MORE THAN 3 DAYS EVERY 3 WEEKS.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cervical dysplasia with inadequate colposcopy
Urogenital atrophy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service after your 
procedure. You have recovered well and the team believes you are 
ready to be discharged home. Please call Dr. ___ office 
with any questions or concerns. Please follow the instructions 
below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking opioids (e.g. oxycodone, 
hydromorphone)
* Take a stool softener such as colace while taking opioids to 
prevent constipation.
* Do not combine opioid and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* Nothing in the vagina (no tampons, no douching, no sex) for 3 
months.
* No heavy lifting of objects >10 lbs for 6 weeks.
* You may eat a regular diet.
* You may walk up and down stairs.

Incision care:
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No tub baths for 6 weeks.
* Leave the steri-strips in place. They will fall off on their 
own. If they have not fallen off by 7 days post-op, you may 
remove them.

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* redness or drainage from incision
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

Constipation:
* Drink ___ liters of water every day.
* Incorporate 20 to 35 grams of fiber into your daily diet to 
maintain normal bowel function. Examples of high fiber foods 
include:
Whole grain breads, Bran cereal, Prune juice, Fresh fruits and 
vegetables, Dried fruits such as dried apricots and prunes, 
Legumes, Nuts/seeds. 
* Take Colace stool softener ___ times daily.
* Use Dulcolax suppository daily as needed.
* Take Miralax laxative powder daily as needed. 
* Stop constipation medications if you are having loose stools 
or diarrhea.

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.
 
Followup Instructions:
___